US08138176B2
c1) 4-[2-(1-Trityl-1H-imidazol-4-ylmethoxy)acetyl]benzonitrile
A solution of 14 mmol of 4-iodobenzonitrile [3058-39-7] in 20 ml of tetrahydrofuran is cooled to −30° C., and 14.80 mmol of i-propylmagnesium chloride (2M in tetrahydrofuran) are added. The mixture is stirred at −30° C. for 60 minutes and a solution, precooled to −30° C., of 10.0 mmol of N-methoxy-N-methyl-2-(1-trityl-1H-imidazol-4-ylmethoxy)acetamide in 30 ml of tetrahydrofuran is added. The mixture is stirred at −30° C. for 30 minutes, and then the reaction mixture is warmed to room temperature and quenched with saturated aqueous ammonium chloride solution. The phases are separated, and the aqueous phase is extracted with ethyl acetate (3×). The combined organic phases are washed with brine, dried with magnesium sulphate and evaporated. The title compound is identified from the residue on the basis of the Rf by flash chromatography (SiO2 60 F).

reactant | 4-iodobenzonitrile | 14 mmol | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | i-propylmagnesium chloride | 14.80 mmol, 2M | C(C)(C)[Mg]Cl
reactant | N-methoxy-N-methyl-2-(1-trityl-1H-imidazol-4-ylmethoxy)acetamide | 10.0 mmol | CON(C(COCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C27H27N3O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[2-(1-Trityl-1H-imidazol-4-ylmethoxy)acetyl]benzonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)COCC(=O)C1=CC=C(C#N)C=C1 | C32H25N3O2
